US07148236B2
(i) N-Methyl 3-mercaptobenzamide
To a solution of 3-mercaptobenzoic acid (1.00 g, 6.49 mmol) in ethyleneglycol-dimethylether (10 ml) was added N-methylmorpholine (1.5 ml, 13.6 mmol) and iso-butylchloroformate (1.77 ml, 13.6 mmol) under a flow of nitrogen at 0° C. The clear solution quickly became a thick paste. After stirring for one hour the reaction was filtered and then treated with 2M methylamine in THF (7 ml, 14 mmol). The reaction was stirred for two days at room temperature and then treated with 0.5M sodium methoxide in methanol (14 ml). The reaction was stirred for three hours, then quenched with 2N HCl until pH=4 and concentrated in vacuo to a semi solid. This was dissolved in H2O (50 ml), basified (2N NaOH, pH=10), washed with CHCl3 (2×50 ml), acidified (2N HCl, pH=2) then extracted with CHCl3 (50 ml) and ethyl acetate (50 ml). The organic extracts were combined, dried (MgSO4) then concentrated in vacuo to a colourless oil (570 mg).

reactant | 3-mercaptobenzoic acid | 6.49 mmol, 1.00 g | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | N-methylmorpholine | 13.6 mmol, 1.5 ml | CN1CCOCC1 | C5H11NO
reactant | iso-butylchloroformate | 13.6 mmol, 1.77 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 14 mmol, 7 ml | C1CCOC1 | C4H8O
reactant | sodium methoxide | 0.5M | C[O-].[Na+]
solvent | ethyleneglycol dimethylether | 10 ml | C(CO)O.COC
solvent | methanol | 14 ml | CO | CH4O
product | N-Methyl 3-mercaptobenzamide | CNC(C1=CC(=CC=C1)S)=O | C8H9NOS
